US06030972
12.1 g (37.6 mmol) of 4-bromomethyl-3-iodobenzonitrile in 200 ml of MeOH/THF 1:1 were slowly added dropwise to 200 ml of conc. ammonia solution/MeOH (saturated with NH3) 1:1, simultaneously passing NH3 into the reaction mixture. The temperature was maintained at 50° C. After 4 h, the solvent was stripped off, and the product was taken up in DCM, dried and precipitated with ethereal HCl. 8.6 g of 4-aminomethyl-3-iodobenzonitrile hydrochloride were obtained. 1H-NMR (DMSO-d6, δ in ppm): 8.8 (broad signal, NH3+), 8.43 (1H), 7.98 (1H), 7.70 (1H), 4.13 (2H)

reactant | 4-bromomethyl-3-iodobenzonitrile | 37.6 mmol, 12.1 g | BrCC1=C(C=C(C#N)C=C1)I | C8H5BrIN
reactant | ammonia | 200 ml | N | H3N
reactant | MeOH | CO | CH4O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH THF | 200 ml | CO.C1CCOC1
product | 4-aminomethyl-3-iodobenzonitrile hydrochloride | 8.6 g | Cl.NCC1=C(C=C(C#N)C=C1)I | InChI=1S/C8H7IN2.ClH/c9-8-3-6(4-10)1-2-7(8)5-11;/h1-3H,5,11H2;1H
